US04161594
1,3-Di-(β-hydroxy-n-propyl)-5,5-diethylhydantoin
A solution of 125.0 g of 5,5-diethylhydantoin (0.8 mol), 300.0 g of dimethylformamide and 2.00 g of lithium chloride is stirred at 52° C. 128 g of propene oxide (2.2 mols) are added dropwise over the course of 21/2 hours. Stirring is then continued for 5 hours at 85°-90° C. The reaction mixture is adjusted to pH = 7 with 2-3 drops of 25% strength sulphuric acid, and is filtered. The clear solution is concentrated on a rotational evaporator at 80° C. bath temperature, under a waterpump vacuum, and is subsequently treated under a high vacuum (0.2 mm Hg) at 80° C. until constant weight is reached.

reactant | 5,5-diethylhydantoin | 0.8 mol, 125.0 g | C(C)C1(C(NC(N1)=O)=O)CC | C7H12N2O2
reactant | lithium chloride | 2.00 g | [Cl-].[Li+]
reactant | propene oxide | 2.2 mols, 128 g | C1C(C)O1 | C3H6O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 300.0 g | CN(C=O)C | C3H7NO
product | 1,3-Di-(β-hydroxy-n-propyl)-5,5-diethylhydantoin | OC(CN1C(=O)N(C(=O)C1(CC)CC)CC(C)O)C | C13H24N2O4
